US04973757
Preparation of 2-amino-5-nitrophenol.
A solution of 0.18 mol (30 g) of 3,4-methylenedioxynitrobenzene in a mixture of 240 ml of 28% strength ammonia solution and 240 ml of diethylene glycol dimethyl ether is heated at 100° C. for 28 hours in an autoclave. After cooling, 480 ml of water are added. The unreacted initial product precipitates. It is recovered by filtration and the filtrate is then neutralised with hydrochloric acid. After filtration, the filtrate is extracted with ethyl acetate. The ethyl acetate is driven off in vacuo. The residue is treated with 25 ml of acetic anhydride and then kept in a boiling water-bath for 30 minutes. After cooling, the expected product is isolated in the form of the acetyl derivative. This acetyl derivative is hydrolysed with 45 ml of hydrochloric acid of density 1.17, at 90° C. for one hour. After dilution and neutralisation of the solution containing hydrochloric acid, 2-amino-5-nitrophenol is isolated by filtration. Melting point=207° C.

reactant | 3,4-methylenedioxynitrobenzene | 0.18 mol, 30 g | C1OC=2C=C(C=CC2O1)[N+](=O)[O-] | C7H5NO4
reactant | ammonia | N | H3N
reactant | diethylene glycol dimethyl ether | 240 ml | COCCOCCOC | C6H14O3
solvent | water | 480 ml | O | H2O
product | 2-amino-5-nitrophenol | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
